US08357703B2
a) 6-(3-Butyl-isoxazol-4-ylmethoxy)-nicotinic acid
To a suspension of 6-(3-butyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (4.0 g, 13.8 mmol) in THF (25 mL) was added a solution of lithium hydroxide monohydrate (1.2 g, 27.6 mmol) in water (25 mL) and then methanol (7 mL) added and the resulting mixture stirred at room temperature for 2 h. The mixture was acidified to pH 1 with HCl (1 N, 80 mL) and the resulting mixture extracted with ethyl acetate. The combined organic layers were then washed with water and brine, dried over sodium sulphate, filtered and evaporated to afford the title compound (3.9 g, 100%) which was obtained as an off white solid. MS: m/e=277.1 [M+H]+.

reactant | 6-(3-butyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 13.8 mmol, 4.0 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1)CCCC)=O | C15H18N2O4
reactant | lithium hydroxide monohydrate | 27.6 mmol, 1.2 g | O.[OH-].[Li+]
reactant | methanol | 7 mL | CO | CH4O
reactant | HCl | 1 N, 80 mL | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | 25 mL | O | H2O
product | 6-(3-Butyl-isoxazol-4-ylmethoxy)-nicotinic acid | 3.9 g, 100% | C(CCC)C1=NOC=C1COC1=NC=C(C(=O)O)C=C1 | C14H16N2O4
